Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain, fevers 
 
Major Surgical or Invasive Procedure:
ERCP

 
Past Medical History:
Stage IV Cholangiocarcinoma, c/b multiple episodes of 
cholangitis
GERD  
Rosacea  
BPH  
History of C. Diff

 
Social History:
___
Family History:
His grandfather had a cancer of the bone. He has no other family 
history of malignancy
 
Physical Exam:
GENERAL: NAD
HEENT: anicteric sclera, MMM
CARDIAC: RRR, nl S1/S2, no murmurs/rubs/gallops
LUNG: CTAB, no wheezes/rales/rhonchi
ABD: soft, mildly tender over RUQ, in the areas of both drains. 
Exit sites without erythema or prurulent drainage. percutaneous 
biliary drain output is green bile. +BS, no rebound/guarding
EXT: WWP, no ___ edema
PULSES: 2+ DP pulses bilaterally
NEURO: grossly intact
 
Pertinent Results:
Admissions labs

___ 11:32PM BLOOD WBC-7.1 RBC-4.18* Hgb-12.3* Hct-38.8* 
MCV-93 MCH-29.5 MCHC-31.8 RDW-17.0* Plt ___
___ 11:32PM BLOOD Neuts-87.0* Lymphs-6.9* Monos-5.1 Eos-0.8 
Baso-0.2
___ 11:32PM BLOOD Plt ___
___ 11:32PM BLOOD Glucose-133* UreaN-9 Creat-0.9 Na-140 
K-3.6 Cl-101 HCO3-29 AnGap-14
___ 11:32PM BLOOD ALT-142* AST-188* AlkPhos-385* 
TotBili-3.6*
___ 11:32PM BLOOD Albumin-4.7 Calcium-9.9

Discharge Labs: 

___ 05:03AM BLOOD WBC-3.3* RBC-3.17* Hgb-9.2* Hct-30.1* 
MCV-95 MCH-29.0 MCHC-30.4* RDW-16.6* Plt ___
___ 06:09AM BLOOD Hypochr-3+ Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Tear 
Dr-OCCASIONAL
___ 05:03AM BLOOD Plt ___
___ 05:03AM BLOOD Glucose-133* UreaN-7 Creat-0.6 Na-136 
K-3.8 Cl-99 HCO3-28 AnGap-13
___ 05:03AM BLOOD ALT-25 AST-38 LD(LDH)-115 AlkPhos-208* 
TotBili-0.5
___ 05:03AM BLOOD Calcium-8.5 Phos-4.2 Mg-1.___holangitis: Patient had fevers and abdominal pain and was 
treated with antibiotics. He was previously treated for a widely 
resistant bacteria and thus was initially on broad spectrum 
antibiotics. Once culture results returned, his treatment was 
appropriately narrowed.The patient also underwent an ERCP which 
cleared his biliary stents.The patient was discharged on 
cefepime/tigecycline at discharge, to finish a 14 day course 
from the last negative blood culture.   

#Cholangiocarcinoma: s/p cyberknife with indwelling biliary and 
percutaneous cholostomy tube. 

#C.diff: Patient was treated with oral vancomycin during his 
inpatient stay. He was discharged with oral vanc to finish a ___fter antibiotics were complete. 

Transitional issues: 
Blood cultures pending at dischage

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID:PRN rocacea 
4. OLANZapine 2.5 mg PO HS:PRN insomnia 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
7. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
8. Pantoprazole 40 mg PO Q24H 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Terazosin 10 mg PO HS 
11. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
12. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1. Vancomycin Oral Liquid ___ mg PO Q6H 
2. CefePIME 2 g IV Q12H 
RX *cefepime [Maxipime] 2 gram 2 g IV Q12 Disp #*18 Vial 
Refills:*0
3. Tigecycline 50 mg IV Q12H 
RX *tigecycline [Tygacil] 50 mg 50 mg IV Q12 Disp #*18 Vial 
Refills:*0
4. Docusate Sodium 100 mg PO BID 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Loratadine 10 mg PO DAILY 
7. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID:PRN rocacea 
8. OLANZapine 2.5 mg PO HS:PRN insomnia 
9. Ondansetron 8 mg PO Q8H:PRN nausea 
10. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
11. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
12. Pantoprazole 40 mg PO Q24H 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Terazosin 10 mg PO HS 
15. Mirtazapine 7.5 mg PO HS 
16. Atenolol 50 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
Cholangitis

Secondary diagnosis: 
Cholangiocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for recurrent 
cholangitis. You were also found to have an infection in your 
blood, which was likely caused by your bile duct infection. You 
underwent ERCP, and the obstruction in your biliary system 
appears to have been releived by this procedure. You will need 
to finish a two-week course of IV antibiotics, which will be 
administered by a visiting nurse. 

Regarding drain care: Empty your drainage back every day, 
recording any output. Change the drain dressing every three 
days. When changing, clean the site with sterile water or with 
half-strength hydrogen peroxide. Do not flush the drain. If flow 
is sluggish or if the drain site becomes painful or inflammed, 
contact your doctor. 

You should follow up with your doctors at the ___ 
listed below. 
 
Followup Instructions:
___